US05387397
(2) Preparation of Ortho-formylphenoxyacetic acid
A solution of NaOH (13.3 g; 0.33 mole) in water (34.4 ml) was carefully added, with cooling, to a mixture of chloroacetic acid (15.8 g; 0.17 mole) and salicylaldehyde (20.3 g; 0.17 mole) in water (134 ml). The mixture was heated to 75° C. with magnetic stirring to facilitate dissolution. The warm solution was pumped through the CMR (15 ml/minute; 170°-2° C.; 700 kPa) and carefully acidified with conc. HCl (32 ml). After steam distillation to recover unreacted salicylaldehyde (6.0 g), the residue was cooled and the product, m.p. 130°-1° C., crystallised, filtered off and dried (7.9 g; 37% yield based on consumed salicylaldehyde). For a conventional preparation see ref.12.

reactant | NaOH | 0.33 mole, 13.3 g | [OH-].[Na+]
reactant | chloroacetic acid | 0.17 mole, 15.8 g | ClCC(=O)O | C2H3ClO2
reactant | salicylaldehyde | 0.17 mole, 20.3 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | HCl | 32 ml | Cl | ClH
solvent | water | 34.4 ml | O | H2O
solvent | water | 134 ml | O | H2O
product | Ortho-formylphenoxyacetic acid | 37% yield | C(=O)C1=C(OCC(=O)O)C=CC=C1 | C9H8O4
